US04985585
4-[6-Acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)propoxy]-2-propylphenoxy]butyric acid
To a mixture of ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy -2-propylphenylthio)propoxy]-2-propylphenoxy]butyrate (2.1 g) in ethanol (10 ml) was added a solution of sodium hydroxide (0.26 g) dissolved into water (10 ml). After heated on hot water bath for 5 minutes, the mixture was cooled by adding ice-water and was made acidic by addition of hydrochloric acid, followed by being extracted with ethyl acetate. The obtained layer was washed with water, dried over sodium sulfate and concentrated. The resultant residue was separated and purified through silica-gel column chromatography (eluting with ethanol:methylene chloride=3:100) to give the title compound (1.3 g, 65.2%) as colorless crystal, mp 79-81° C.

reactant | ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy -2-propylphenylthio)propoxy]-2-propylphenoxy]butyrate | 2.1 g | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H42O7S
reactant | sodium hydroxide | 0.26 g | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-[6-Acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)propoxy]-2-propylphenoxy]butyric acid | 1.3 g, 65.2% | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)O)CCC)OCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C29H38O7S
